US04658055
In the presence of 0.2 g of para-toluenesulfonic acid, 16.5 g (0.13 mol) of cyclooctanone and 16.5 g (0.15 mol) of trimethyl orthoformate were stirred at room temperature for four hours. The resultant mixture was heated at 100° C. for 14 hours. The vacuum distillation of the mixture gave 13.7 g (75% in yield) of 1-methoxycyclooctene having a boiling point of 83° to 88° C./27 mmHg.

reactant | cyclooctanone | 0.13 mol, 16.5 g | C1(CCCCCCC1)=O | C8H14O
reactant | trimethyl orthoformate | 0.15 mol, 16.5 g | C(OC)(OC)OC | C4H10O3
catalyst | para-toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 1-methoxycyclooctene | 13.7 g, 75% | COC1=CCCCCCC1 | C9H16O
